US04578397
Methyl 4-chloro-1-hydroxyimino-2,3-dihydro-inden-2-acetate (15 g) is hydrogenated at 40 atm of hydrogen in 200 ml of methanol plus 50 ml of acetic acid in the presence of 1.5 g of platinum oxide catalyst at 30°-50° C. for 7 hours. The catalyst is then filtered off, and the filtrate is concentrated. The residual oil is extracted with chloroform. The extract is washed with aqueous potassium carbonate solution, then with water and dried over sodium sulfate, and the solvent is distilled off. The residue is heated on an oil bath at 110°-120° C. for 2 hours. After cooling, ether is added, and the precipitated crystals are collected by filtration and recrystallized from ether to give 5 g of 5-chloro-1,2,3,3a,4,8b-hexahydro-indeno[1,2-b]pyrrol-2-one, melting at 186°-187° C.

reactant | Methyl 4-chloro-1-hydroxyimino-2,3-dihydro-inden-2-acetate | 15 g | ClC1=C2CC(C(C2=CC=C1)=NO)CC(=O)OC | C12H12ClNO3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 200 ml | CO | CH4O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | 1.5 g | [Pt]=O
product | 5-chloro-1,2,3,3a,4,8b-hexahydro-indeno[1,2-b]pyrrol-2-one | 5 g | ClC1=C2CC3C(NC(C3)=O)C2=CC=C1 | C11H10ClNO
